US05739079
22.1 g (160 mmol) of potassium carbonate were suspended in 30 ml of acetone, 7.5 g (80 mmol) of phenol in 100 ml of acetone were added, and the mixture was refluxed for 1 hour. 15.5 g (80 mmol) of diethyl 2-chloromalonate in 100 ml of acetone were subsequently added dropwise, the mixture was refluxed for 10 hours and evaporated in vacuo, and the residue was taken up in methylene chloride. The organic phase was washed with saturated NaHCO3 solution and saturated NaCl solution, dried over magnesium sulfate and evaporated. Column chromatography (silica gel, heptane/diethyl ether 2:1) of the residue gave 15.5 g (77% of theory) diethyl 2-phenoxymalonate as a colorless liquid.

reactant | potassium carbonate | 160 mmol, 22.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenol | 80 mmol, 7.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | diethyl 2-chloromalonate | 80 mmol, 15.5 g | ClC(C(=O)OCC)C(=O)OCC | C7H11ClO4
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | diethyl 2-phenoxymalonate | 15.5 g, 77% | O(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O5
